US05075437
To a suspension of stannous trifluoromethanesulfonate (2.18 g) and N-ethylpiperidine (590 mg) in dichloromethane (15 ml) was added dropwise a solution of 2-methyl-2-(trimethylsilyloxy)-3-pentanone (785 mg) in dichloromethane (2 ml) at -78° C. under argon atmosphere. After stirring for 30 minutes, a solution of (3R,4R)-4-acetoxy-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-azetidinone (300 mg) in dichloromethane (3 ml) was added dropwise to the mixture. The reaction mixture was allowed to warm to room temperature and stirred at the same temperature for 3 hours. The mixture was quenched with phosphate butter (pH 7). The organic layer was filtered with celite, washed with dichloromethane, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (9 g) eluting with a mixture of ethyl acetate and hexane (1:10, V/V) to give (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-1,3-dimethyl-3-(trimethylsilyloxy)-2-oxobutyl]-2-azetidinone (159 mg).

reactant | N-ethylpiperidine | 590 mg | C(C)N1CCCCC1 | C7H15N
reactant | 2-methyl-2-(trimethylsilyloxy)-3-pentanone | 785 mg | CC(C)(C(CC)=O)O[Si](C)(C)C | C9H20O2Si
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-azetidinone | 300 mg | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-1,3-dimethyl-3-(trimethylsilyloxy)-2-oxobutyl]-2-azetidinone | 159 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(C(C)(O[Si](C)(C)C)C)=O)C)=O | C20H41NO4Si2
